US07598391B2
Trans-4-{2-[3-cyclohexyl-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonic acid dimethylamide
Prepared in 62% (326 mg) yield as described in general procedure (B) from trans-1-cyclohexyl-3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-urea (349 mg, 1.0 mmol) and piperazine-1-sulfonic acid dimethylamide hydrochloride (230 mg, 1 mmol).

reactant | trans-1-cyclohexyl-3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-urea | 1.0 mmol, 349 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)[C@@H]1CC[C@H](CC1)C | C18H27N3O2S
reactant | piperazine-1-sulfonic acid dimethylamide hydrochloride | 1 mmol, 230 mg | Cl.CN(S(=O)(=O)N1CCNCC1)C
product | Trans-4-{2-[3-cyclohexyl-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCCCC1)C | C24H42N6O3S2
